US06194406B1
1-(2-Methoxy-5-(1H-tetrazol-5-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 56.1 using 2-methoxy-5-(1H-tetrazol-5-yl)benzoic acid and 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt (prepared from (−)-3-(2-hydroxyethyl)-3-phenylpyrrolidine(R,R)-di-p-anisoyltartaric acid salt) to give, after chromatography on silica gel eluting sequentially with dichloromethane/methanol/concentrated ammonium hydroxide) 95/5/0.1 dichloromethane/methanol/concentrated ammonium hydroxide) 80/20/0.2, the title compound: Rf=0.81 (silica gel, dichloromethane/methanol/concentrated ammonium hydroxide) 90/10/0.1).

reactant | 2-methoxy-5-(1H-tetrazol-5-yl)benzoic acid | COC1=C(C(=O)O)C=C(C=C1)C1=NN=NN1 | C9H8N4O3
reactant | 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CCC2(CNCC2)C2=CC=CC=C2
solvent | dichloromethane methanol | ClCCl.CO
product | 1-(2-Methoxy-5-(1H-tetrazol-5-yl)benzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)C1=NN=NN1 | C37H45N9O3
